### PR TITLE
4 small sorries in Syscall_R.thy

### PR DESCRIPTION
**Pull request by MitchellBuckley**
* `setDomain_corres` is proved and renamed
* Two wp lemmas about `rescheduleRequired` are deleted.
* A third `rescheduleRequired` lemma is trivial when two stronger sub-lemmas are used.

### CODE REVIEW

**Review by VictorPhan — APPROVED** [review]

File: proof/refine/ARM/Syscall_R.thy [hunk 1]
```diff
@@ -351,50 +351,49 @@ lemma threadSet_tcbDomain_update_sch_act_wf[wp]:
    apply (auto simp: obj_at'_def)
   done
 
-lemma set_domain_setDomain_corres:
+lemma valid_tcb_domain_update:
+  "valid_tcb tptr (tcb\<lparr>tcb_domain := new_dom\<rparr>) s = valid_tcb tptr tcb s"
```
Comment (corlewis) [inline proof/refine/ARM/Syscall_R.thy:355]: I'm not sure where to, but I think that these two lemmas should either be moved earlier or at least have a `FIXME: move` on them.

File: proof/refine/ARM/Syscall_R.thy [hunk 2]
```diff
@@ -351,50 +351,49 @@ lemma threadSet_tcbDomain_update_sch_act_wf[wp]:
...
+   \<forall>tcb. valid_tcb' tcb s \<longrightarrow> valid_tcb' (tcbDomain_update (\<lambda>_. new_dom) tcb) s"
+  unfolding valid_tcb'_def
+  by (clarsimp simp: tcb_cte_cases_def)
+
+lemma setDomain_corres:
   "corres dc
-     (valid_sched and tcb_at tptr)
-     (invs' and sch_act_simple and (\<lambda>s. new_dom \<le> maxDomain))
+     (valid_tcbs and pspace_aligned and pspace_distinct and weak_valid_sched_action and tcb_at tptr)
+     (invs' and (\<lambda>_. new_dom \<le> maxDomain))
```
Comment (corlewis) [inline proof/refine/ARM/Syscall_R.thy:368]: Nice job both simplifying the preconditions and proof of this lemma!

File: proof/refine/ARM/Syscall_R.thy [hunk 3]
```diff
@@ -461,10 +460,10 @@ lemma pinv_corres:
         \<comment> \<open>domain cap\<close>
         apply (clarsimp simp: invoke_domain_def)
         apply (rule corres_guard_imp)
-          apply (rule corres_split_deprecated [OF _ set_domain_setDomain_corres])
+          apply (rule corres_split_deprecated [OF _ setDomain_corres])
             apply (rule corres_trivial, simp)
            apply (wp)+
-         apply (clarsimp+)[3]
+         apply ((clarsimp | fastforce)+)[3]
```
Comment (corlewis) [inline proof/refine/ARM/Syscall_R.thy:466]: Out of curiosity, could this just be `fastforce`?

**Review by corlewis — APPROVED** [review]
Looks great!

File: proof/refine/ARM/Syscall_R.thy [hunk 4]
```diff
@@ -351,50 +351,49 @@ lemma threadSet_tcbDomain_update_sch_act_wf[wp]:
...
+           apply (clarsimp simp: tcb_cte_cases_def)
+          apply (rule corres_split[OF isSchedulable_corres])
+            apply (rule corres_split[OF corres_when[OF _ tcbSchedEnqueue_corres]], simp)
+              apply (rule corres_when[OF _ rescheduleRequired_corres], simp)
+             apply (wpsimp wp: hoare_drop_imp hoare_vcg_if_lift2 thread_set_weak_valid_sched_action
+                               threadSet_valid_tcbs' threadSet_vrq_inv threadSet_vrq'_inv
+                               threadSet_valid_queues_no_state threadSet_valid_queues'_no_state
+                         simp: valid_tcb_domain_update)+
+      apply (clarsimp cong: conj_cong)
+      apply (rule hoare_vcg_conj_lift, strengthen valid_tcb'_tcbDomain_update, wpsimp)
```
Comment (mbrcknl) [inline proof/refine/ARM/Syscall_R.thy:388]: It's difficult to judge without seeing the proof state, but I wonder if `valid_tcb'_tcbDomain_update` would work as a `simp:` rule here if you dropped the `forall` from the rule.

Comment (mbrcknl) [reply proof/refine/ARM/Syscall_R.thy:388]: Ignore that, I misread the rule. (After seeing `valid_tcb_domain_update`, I assumed `valid_tcb'_tcbDomain_update` was a conditional equality rather than an implication).

**Review by mbrcknl — APPROVED** [review]
Looks good!

File: proof/refine/ARM/Syscall_R.thy (hunk 3 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Syscall_R.thy:466]: Strangely, no.

**Comment by MitchellBuckley** [comment]
This is now cleaned up. Ok to merge?

**Review by mktnk3 — APPROVED** [review]
Nice!

**Comment by mktnk3** [comment]
> This is now cleaned up. Ok to merge?

Yes, I think it’ll be good to merge this now.
